US06387938B1
Synthesis of ethyl 3-(6-t-butyldimethylsilyloxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoate
Triethylamine (2.65 mL) and magnesium chloride (2.16 g) were added to dry acetonitrile (37.5 mL) suspension of potassium ethylmalonate (3.23 g), and the mixture was vigorously stirred at room temperature for 16 hours under in an atmosphere of argon. Next, a catalytically effective amount of N,N-dimethylaminopyridine and 1,1′-carbonyldiimidazole (1.35 g) were added to anhydrous tetrahydrofuran (30 mL) solution of 6-t-butyldimethylsilyloxy-2-(2-phenylethyl)benzimidazole-4-carboxylic acid (3.0 g) obtained in Reference Example 23, and the mixture was stirred for 1 hour under an atmosphere of argon. This was diluted to the previously prepared suspension of ethyl malonate magnesium salt while cooling in an ice bath, and the mixture was stirred at room temperature for 2 hours. This was diluted with ice water (50 mL) and, while cooling in an ice bath, adjusted to pH 1 with 4 N hydrochloric acid. While cooling in an ice bath, this was adjusted to pH 8 to 9 with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) and the desired fraction was concentrated to obtain the title compound as colorless oil (3.44 g).

reactant | magnesium chloride | 2.16 g | [Cl-].[Mg+2].[Cl-]
reactant | potassium ethylmalonate | 3.23 g | C(C)C(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | 1,1′-carbonyldiimidazole | 1.35 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-t-butyldimethylsilyloxy-2-(2-phenylethyl)benzimidazole-4-carboxylic acid | 3.0 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C2=C(N=C(N2)CCC2=CC=CC=C2)C1)C(=O)O | C22H28N2O3Si
reactant | ethyl malonate magnesium salt | [Mg+2].C(CC(=O)[O-])(=O)OCC.C(C)OC(CC(=O)[O-])=O
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 37.5 mL | C(C)#N | C2H3N
solvent | Triethylamine | 2.65 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3-(6-t-butyldimethylsilyloxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoate | 3.44 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C2=C(N=C(N2)CCC2=CC=CC=C2)C1)C(CC(=O)OCC)=O | C26H34N2O4Si
